US06982348B2
To 1,1-dimethylethyl(1RS,2RS)-2-(6-chloro-2-pyridyl)-2-hydroxy-1-((4-(trifluoromethyl)phenyl)methyl)ethylcarbamate (500 mg, 1.16 mmol) was added trifluoroacetic acid (8 ml) at 0° C., and the mixture was stirred for 10 min. The reaction solution was concentrated, diluted with water (20 ml) and extracted with ethyl acetate (20 ml×2). The extract was washed with saturated brine, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The residue was recrystallized from diisopropyl ether-hexane to give (1RS,2RS)-2-amino-1-(6-chloro-2-pyridyl)-3-(4-(trifluoromethyl)phenyl)-1-propanol (302 mg, 79%).

reactant | 1,1-dimethylethyl(1RS,2RS)-2-(6-chloro-2-pyridyl)-2-hydroxy-1-((4-(trifluoromethyl)phenyl)methyl)ethylcarbamate | 1.16 mmol, 500 mg | ClC1=CC=CC(=N1)C(C(CC1=CC=C(C=C1)C(F)(F)F)NC(OC(C)(C)C)=O)O | C20H22ClF3N2O3
reactant | trifluoroacetic acid | 8 ml | FC(C(=O)O)(F)F | C2HF3O2
product | (1RS,2RS)-2-amino-1-(6-chloro-2-pyridyl)-3-(4-(trifluoromethyl)phenyl)-1-propanol | 302 mg, 79% | NC(C(O)C1=NC(=CC=C1)Cl)CC1=CC=C(C=C1)C(F)(F)F | C15H14ClF3N2O
